US07544690B2
To a suspension of trans-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]cyclohexylmethyl}-carbamic acid tert-butyl ester (3.84 g, 9.28 mmol) in EtOAc (50 mL) was added 4 M hydrogen chloride in EtOAc (38 mL). The mixture was stirred at ambient temperature for 40 min and concentrated to give a white solid. To a suspension of the solid in CH2Cl2 (50 mL) was added diisopropylethylamine (6.46 mL, 37.1 mmol). The mixture was cooled at 4° C. and a solution of 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride (3.31 g, 9.75 mmol) in CH2Cl2 (10 mL) was added below 5° C. The reaction mixture was stirred at 4° C. for 1.5 hr. The reaction was quenched with saturated aqueous NaHCO3 The aqueous layer was extracted with CHCl3 (three times). The combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (NH-silica gel, 20% EtOAc in hexane) to give trans-4-bromo-N-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-cyclohexylmethyl}-2-trifluoromethoxy-benzenesulfonamide (3.45 g, 60%) as a pale yellow solid.

reactant | trans-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]cyclohexylmethyl}-carbamic acid tert-butyl ester | 9.28 mmol, 3.84 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C)=O | C23H35N5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | diisopropylethylamine | 37.1 mmol, 6.46 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride | 9.75 mmol, 3.31 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 38 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | trans-4-bromo-N-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-cyclohexylmethyl}-2-trifluoromethoxy-benzenesulfonamide | 3.45 g, 60% | BrC1=CC(=C(C=C1)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C)OC(F)(F)F | C25H29BrF3N5O3S
